US03950329
To a solution of 0.494 g (1.0 mmole) of 2,2,2-trichloroethyl 3-fluoromethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide in 5 ml CH3CN and 2 ml DMF at 0° is added 0.207 g (1.1 mmole) anhydrous SnCl2 and 0.40 g (5 mmole) acetyl chloride and the resulting mixture is stirred at 0° for 1.0 hrs, then at 25° for 1.0 hour, and then poured into water and extracted with ethyl acetate. The ethyl acetate layer is washed with 3% HCl solution, 5% NaHCO3 solution, and water, and then dried (MgSO4) and stripped in vacuo to give 2,2,2-trichloroethyl 3-fluoromethyl-7-phenylacetamido-3-cephem-4-carboxylate, which can be purified by chromatography on silica gel with chloroform.

reactant | 2,2,2-trichloroethyl 3-fluoromethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | 1.0 mmole, 0.494 g | FCC=1CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C18H16Cl3FN2O5S
reactant | SnCl2 | 1.1 mmole, 0.207 g | Cl[Sn]Cl
reactant | acetyl chloride | 5 mmole, 0.40 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2,2,2-trichloroethyl 3-fluoromethyl-7-phenylacetamido-3-cephem-4-carboxylate | FCC=1CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H16Cl3FN2O4S
